US04304770
N,N-Dimethylaniline (18.2 ml) was added to a mixture of ammonium 7-(5-amino-5-carboxyvaleramido)-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate (10.0 g), trimethylsilyl chloride (20.9 ml) and methylene chloride (75 ml), and the mixture was stirred under reflux for 2.5 hours. Phosphorus pentachloride (5.83 g) was added thereto at -30° to -35° C. and the mixture was stirred for 2 hours at the same temperature. 2-Ethoxyethanol (38 ml) was added dropwise thereto at the same temperature and the mixture was stirred for 1 hour at the same temperature. Water (80 ml) was added thereto at -5° to -10° C. over 10 minutes and the resulting mixture was stirred for 5 minutes at the same temperature. The aqueous layer was separated and adjusted to pH 4.2 with 28% aqueous solution of ammonia. Precipitates were collected by filtration, washed with 70% aqueous acetone (40 ml) and methanol (40 ml), and dried to give 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (4.1 g).

reactant | N,N-Dimethylaniline | 18.2 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | ammonium 7-(5-amino-5-carboxyvaleramido)-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 10.0 g | NC(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)[O-])C1=O)C(=O)O.[NH4+]
reactant | trimethylsilyl chloride | 20.9 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | Phosphorus pentachloride | 5.83 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-Ethoxyethanol | 38 ml | C(C)OCCO | C4H10O2
solvent | Water | 80 ml | O | H2O
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 4.1 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O | C12H14N6O3S2
